US07524951B2
(a) (3S,4R)-3-[(1R)-1-(tert-butyldimethylsilyloxy)ethyl]-4-[1-methyl-2-[7-(pyridin-3-yl)triethylsilyloxymethylimidazo[5,1-b]thiazol-2-yl]-2-oxoethyl]azetidin-2-one
A 1 M tetrahydrofuran solution (5.2 ml) of lithium bistrimethylsilylamide was added to a solution of 2.05 g of lithium bromide in 10 ml of tetrahydrofuran under an argon atmosphere, and the mixture was cooled to −78° C. A solution of 0.95 g of 2-propionyl-7-(pyridin-3-yl)triethylsilyl oxymethylimidazo[5,1-b]thiazole in 4.7 ml of tetrahydrofuran was added thereto, and the mixture was stirred at that temperature for one hr. A solution of 0.81 g of (3S,4R)-4-acetoxy-3-[(1R)-1-tert-butyldimethylsilyloxyethyl]azetidin-2-one in 3.8 ml of tetrahydrofuran was added thereto, and the mixture was stirred at that temperature for 2 hr. A 10% aqueous citric acid solution was added to the reaction mixture to stop the reaction, and the reaction mixture was extracted with ethyl acetate. The extract was washed with a saturated aqueous sodium bicarbonate solution and saturated brine in that order and was then dried over anhydrous magnesium sulfate. The extract was then concentrated by removing the solvent, and the concentrate was purified by column chromatography on silica gel (5 to 10% methanol/methylene chloride) to give 0.80 g of a crude product of (3S,4R)-3-[(1R)-1-(tert-butyldimethylsilyloxy)ethyl]-4-[1-methyl-2-[7-(pyridin-3-yl)triethylsilyloxymethylimidazo[5,1-b]thiazol-2-yl]-2-oxo ethyl]azetidin-2-one.

reactant | lithium bistrimethylsilylamide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | lithium bromide | 2.05 g | [Br-].[Li+]
reactant | 2-propionyl-7-(pyridin-3-yl)triethylsilyl oxymethylimidazo[5,1-b]thiazole | 0.95 g | C(CC)(=O)C1=C(N2C(S1)=C(N=C2)C=2C=NC=CC2)CO[Si](CC)(CC)CC | C20H27N3O2SSi
reactant | (3S,4R)-4-acetoxy-3-[(1R)-1-tert-butyldimethylsilyloxyethyl]azetidin-2-one | 0.81 g | C(C)(=O)O[C@@H]1[C@@H](C(N1)=O)[C@@H](C)O[Si](C)(C)C(C)(C)C | C13H25NO4Si
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4.7 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3.8 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 M, 5.2 ml | O1CCCC1 | C4H8O
product | (3S,4R)-3-[(1R)-1-(tert-butyldimethylsilyloxy)ethyl]-4-[1-methyl-2-[7-(pyridin-3-yl)triethylsilyloxymethylimidazo[5,1-b]thiazol-2-yl]-2-oxoethyl]azetidin-2-one | 0.80 g | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N[C@@H]1C(C(=O)C1=C(N2C(S1)=C(N=C2)C=2C=NC=CC2)CO[Si](CC)(CC)CC)C)=O | C31H48N4O4SSi2
